US07432255B2
Toluene-4-sulfonic acid 1-ethyl-piperidin-3-ylmethyl ester
A mixture of 1 g (3.2. mmol) toluene-4-sulfonic acid piperidin-3-ylmethyl ester, hydrochloride, 1.02 g (7 mmol) ethyl iodide (commercially available) and 0.6 g (10 mmol) sodium carbonate in 20 mL acetonitrile was shaken at 65° C. over night. Sodium hydrogencarbonate aq. was added and the mixture was extracted with DCM. The combined organic fractions were evaporated to dryness and the residue was purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/NEt3. The combined product fractions were evaporated to yield 40 mg (4%) of the title compound as yellow oil. MS(m/e): 298 (MH+).

reactant | toluene-4-sulfonic acid piperidin-3-ylmethyl ester, hydrochloride | 1 g | Cl.N1CC(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C
reactant | ethyl iodide | 7 mmol, 1.02 g | C(C)I | C2H5I
reactant | sodium carbonate | 10 mmol, 0.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Toluene-4-sulfonic acid 1-ethyl-piperidin-3-ylmethyl ester | 40 mg, 4% | C(C)N1CC(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C15H23NO3S
